US08134001B2
In a manner similar to the method described in example 4a, 5-bromosalicylaldehyde (3.6 g, 18 mmol) (Aldrich) reacted with (S)-3-methanesulfonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester (5.3 g, 20 mmol) and K2CO3 in N,N-dimethylformamide to give (R/S)-3-(4-bromo-2-formyl-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester as an orange oil (Yield 3.6 g, 54%).

reactant | 5-bromosalicylaldehyde | 18 mmol, 3.6 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | (S)-3-methanesulfonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 20 mmol, 5.3 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OS(=O)(=O)C | C10H19NO5S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (R/S)-3-(4-bromo-2-formyl-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | Yield 3.6 g, 54% | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C(C=C1)Br)C=O | C16H20BrNO4
